US09353107B2
Step-ii: (S)-1-(4-(4-(3-(1-(3-fluorobenzyl)-5-methyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)propan-2-ol
Using similar reaction conditions as described in step-i of example-82A, 3-(1-(3-fluorobenzyl)-5-methyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride (230 mg, 0.349 mmol) was alkylated using (S)-2-methyloxirane (41 mg, 0.69 mmol) DIPEA (136 mg, 10 mmol) and ethanol (5 mL) to get 200 mg (crude) of the titled compound.

reactant | 3-(1-(3-fluorobenzyl)-5-methyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | 0.349 mmol, 230 mg | Cl.FC=1C=C(CN2N=CC(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1
reactant | (S)-2-methyloxirane | 0.69 mmol, 41 mg | C[C@@H]1OC1 | C3H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (S)-1-(4-(4-(3-(1-(3-fluorobenzyl)-5-methyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazin-1-yl)propan-2-ol | FC=1C=C(CN2N=CC(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)C[C@H](C)O)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C38H39FN6O3S
